US06004950
Step 1: 3-Hydroxymethyl-3-methylpiperidine
To ethyl nipecotate (1.3 g) in THF (20 mL) at r.t was added potassium bis(trimethylsilyl)amide (18 mL of a 0.5 M solution in toluene). After 1 h, methyl iodide (0.5 mL) was added and the mixture was stirred for 15 h. Water was added and the mixture extracted with ether. The organics were washed with brine, dried and concentrated. The residual material (1.3 g) was dissolved in THF (20 mL) and treated with lithium aluminum hydride (8.7 mL of a 1 M solution in THF) at r.t. After 15 h, the mixture was cooled to -5° C. and aqueous sodium potassium tartrate was added followed by concentrated NH4OH, 10 N NaOH and the resulting mixture was stirred for 30 min. The mixture was filtered through anhydrous sodium sulfate and the filtrate was concentrated from toluene twice. The residual oil (1 g), containing the title compound, was used without further purification in Step 2.

reactant | ethyl nipecotate | 1.3 g | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | methyl iodide | 0.5 mL | CI | CH3I
reactant | Water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Hydroxymethyl-3-methylpiperidine | OCC1(CNCCC1)C | C7H15NO
